US03995056
100 g of 2-methyl-3-nitro-benzoic acid and 500 ml of thionyl chloride were refluxed for 15 hours and the mixture was then evaporated to dryness under reduced pressure to obtain 110 g of 2-methyl-3-nitro-benzoyl chloride which was used as in the synthesis.

reactant | 2-methyl-3-nitro-benzoic acid | 100 g | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | thionyl chloride | 500 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-methyl-3-nitro-benzoyl chloride | 110 g | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
